US06313127B1
A solution of 1-(4-cyanophenyl)-4-(4-pyridyl)piperazine (1.8 g) in ethanol saturated with ammonia gas (150 ml) was hydrogenated at 150 atmospheres and 100° C. (using Raney Nickel as catalyst) in a high pressure hydrogenation apparatus for 18 hours. The solution was filtered through diatomaceous earth and the filtrate evaporated to give a solid which was purified by flash chromatography on alumina (ICN Alumina N 32-63) using a mixture of 95:5 dichloromethane:methanol as eluant. The residue was recrystallised from tetrahydrofuran/isohexane to give 1-(4-aminomethylphenyl)-4-(4-pyridyl)piperazine (1.3 g) m.p.168-170° C.; microanalysis, found: C,71.5; H,7.6; N,20.5%; C16H20N4 requires: C,71.6; H,7.5; N,20.9%; NMR: 3.2-3.4(m,4H), 3.4-3.6(m,4H), 3.65(s,2H), 6.8-6.9(d,2H), 6.9-7.0(d,2H), 7.15-7.25(d,2H), 8.15-8.25(d,2H); MS: m/z 269 (MH)+.

reactant | 1-(4-cyanophenyl)-4-(4-pyridyl)piperazine | 1.8 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C16H16N4
reactant | ammonia | 150 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | 1-(4-aminomethylphenyl)-4-(4-pyridyl)piperazine | 1.3 g | NCC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C16H20N4
